US09303000B2
Synthesis of (Z)-3-(3-(2-chloro-6-methoxypyridin-4-yl)-1H-1,2,4-triazol-1-yl)acrylic acid
In a 25-mL, 3N round-bottomed flask equipped with Thermometer pocket and rubber septum, (Z)-isopropyl 3-(3-(2-chloro-6-methoxypyridin-4-yl)-1H-1,2,4-triazol-1-yl)acrylate (0.7 g, 1.0 eq.) dissolve in THF (4 ml) was added lithium hydroxide (0.182 g, 2.0 eq.) (dissolved in water), resulting reaction mixture was stir at RT. The progress of the reaction was followed by TLC analysis on silica gel with 20% EtOAc-hexane as mobile phase which shows that starting material was consumed after 5 h. THF was removed under reduce pressure, aqueous layer washed with ethyl acetate then acidified to 3-5 pH and extract by ethyl acetate (30 ml×3), combined organic layer were dried over sodium sulfate and concentrate under reduce pressure to obtain crude material (0.228 g), crude material was subjected to column purification. The crude compound was purified by column chromatography using 60/120 silica gel and ethyl acetate in hexane as mobile phase. The column was packed in hexane and started eluting in ethyl acetate in gradient manner starting with fraction collection. The compound started eluting from 10% ethyl acetate in hexane. Fractions containing such TLC profile were collected together to obtain pure compound 0.180 g yield (29.97%); LCMS (%): 93.46% [M+H]+ 280.81 RT: 3.213 min.

reactant | (Z)-isopropyl 3-(3-(2-chloro-6-methoxypyridin-4-yl)-1H-1,2,4-triazol-1-yl)acrylate | 0.7 g, 1.0 eq. | ClC1=NC(=CC(=C1)C1=NN(C=N1)\C=C/C(=O)OC(C)C)OC | C14H15ClN4O3
reactant | lithium hydroxide | 0.182 g, 2.0 eq. | [OH-].[Li+]
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | (Z)-3-(3-(2-chloro-6-methoxypyridin-4-yl)-1H-1,2,4-triazol-1-yl)acrylic acid | 0.180 g | ClC1=NC(=CC(=C1)C1=NN(C=N1)\C=C/C(=O)O)OC | C11H9ClN4O3
